US05096919
Triethyl 4-phosphonocrotonate is condensed with p-nitrobenzaldehyde in the presence of sodium hydride in toluene/tetrahydrofuran to yield 5-(p-nitrophenyl)-penta-2,4-dienoic acid ethyl ester, m.p. 150°-152°. Hydrogenation in ethyl acetate at one atmosphere pressure and room temperature using Adams catalyst yields ethyl 5-(4-amino-phenyl)-valerate. Condensation with acetonylacetone yields ethyl 5-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-valerate.

reactant | Triethyl 4-phosphonocrotonate | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium hydride | [H-].[Na+]
solvent | toluene tetrahydrofuran | C1(=CC=CC=C1)C.O1CCCC1
product | 5-(p-nitrophenyl)-penta-2,4-dienoic acid ethyl ester | C(C)OC(C=CC=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H13NO4
